US05637706
2,4-bis(2,4-dihydroxyphenyl)-6-(4-chlorophenyl)-s-triazine;
2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine; 2,4-bis[2-hydroxy-4-(2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(2,4-dimethylphenyl)-s-triazine;

reactant | 2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine | OC1=C(C=CC(=C1)OCCO)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=CC=C(C=C1)Cl | C25H22ClN3O6
reactant | 2-hydroxy-4-(2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(2,4-dimethylphenyl)-s-triazine | OC1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=C(C=C(C=C1)C)C | C19H19N3O4
product | 2,4-bis(2,4-dihydroxyphenyl)-6-(4-chlorophenyl)-s-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=C(C=C1)Cl | C21H14ClN3O4
